US06953806B2
0.45 ml of oxalyl chloride in 5.0 ml of dichloromethane were cooled to −78° C.; then, 0.41 g of dimethylsulfoxide in 2.0 ml of dichloromethane were slowly added and the reaction mixture stirred at −78° C. for 10 minutes. Then, 0.680 g (2.64 mmol) trans-(4-hydroxymethyl-cyclohexylmethyl)-methyl-carbamic acid tert-butyl ester dissolved in 5.0 ml of dichloromethane were added and the reaction mixture stirred at −78° C. for 10 minutes. Subsequently, 1.84 ml of triethylamine were added at the same temperature, the reaction mixture stirred 30 minutes at −78° C., warmed to room temperature and stirred for 1 hour. It was then poured into 50 ml of an ice/water mixture and extracted 3 times with 50 ml of dichloromethane. The combined dichloromethane phases were washed with dilute hydrochloric acid, sodium hydrogen carbonate solution and with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue formed was chromatographed on silica gel with a 4:1 v/v mixture of dichloromethane and ether as the eluent giving 0.615 g (91.1%) trans-(4-formyl-cyclohexylmethyl)-methyl-carbamic acid tert-butyl ester as colorless amorphous solid, MS: 273 (MNH4+).

reactant | oxalyl chloride | 0.45 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.41 g | CS(=O)C | C2H6OS
reactant | trans-(4-hydroxymethyl-cyclohexylmethyl)-methyl-carbamic acid tert-butyl ester | 2.64 mmol, 0.680 g | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)CO)=O | C14H27NO3
reactant | triethylamine | 1.84 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | trans-(4-formyl-cyclohexylmethyl)-methyl-carbamic acid tert-butyl ester | 0.615 g, 91.1% | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)C=O)=O | C14H25NO3
